US06262044B1
5,6-Dichloro-2-(1,4,8-trioxa-spiro[4.5]dec-7-ylmethyl)-isoindole-1,3-dione (87 mg, 0.23 mmol) was dissolved in tetrahydrofuran (2.5 ml). 1.0 N hydrochloric acid (1.0 ml) was added to the solution and the mixture was heated at 75° C. for 20 h. The heterogeneous mixture was evaporated to dryness in vacuo and the resulting solid was dissolved in dichloromethane (10 ml) and washed with water (3×2 ml). The organic layer was dried (MgSO4), filtered and the solvent evaporated in vacuo affording 62.1 mg (81%) of 5,6-dichloro-2-(4-oxo-tetrahydro-pyran-2-ylmethyl)-isoindole-1,3-dione as a solid.

reactant | 5,6-Dichloro-2-(1,4,8-trioxa-spiro[4.5]dec-7-ylmethyl)-isoindole-1,3-dione | 0.23 mmol, 87 mg | ClC=1C=C2C(N(C(C2=CC1Cl)=O)CC1CC2(OCCO2)CCO1)=O | C16H15Cl2NO5
reactant | hydrochloric acid | 1.0 N, 1.0 ml | Cl | ClH
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
product | 5,6-dichloro-2-(4-oxo-tetrahydro-pyran-2-ylmethyl)-isoindole-1,3-dione | 62.1 mg, 81% | ClC=1C=C2C(N(C(C2=CC1Cl)=O)CC1OCCC(C1)=O)=O | C14H11Cl2NO4
